US08466282B2
Tert-butyl (3R,5S)-3-formyl-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate
To a solution of tert-butyl (3R,5S)-3-(hydroxymethyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate (1.0 g) in acetonitrile (20 ml) was added 1,1,1-tris(acetyloxy)-1,1-dihydro-1,2-benziodoxol-3-(1H)-one (0.98 g), and the mixture was stirred at room temperature for 3 hr. 10% Aqueous sodium thiosulfate solution was added to the reaction mixture, and the mixture was stirred for 30 min. After partitioning, the organic layer was washed with saturated aqueous sodium hydrogen carbonate and brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:1) was concentrated under reduced pressure to give the object product (1.0 g).

reactant | tert-butyl (3R,5S)-3-(hydroxymethyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 1.0 g | OC[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)OC(C)(C)C | C28H44N4O5
reactant | 1,1,1-tris(acetyloxy)-1,1-dihydro-1,2-benziodoxol-3-(1H)-one | 0.98 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | Tert-butyl (3R,5S)-3-formyl-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 1.0 g | C(=O)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)OC(C)(C)C | C28H42N4O5
